US05945440
510 mg (1.08 mmol) 12-(3-Dimethylaminopropyl)-6,7,12,13-tetrahydro-3,9-dimethoxy-5,7-dioxoindolo-[2,3-a]furano[3.4-c]carbazole are heated in an autoclave for 24 hours at 140° C. in 40 ml of a saturated solution of ammonia in ethanol. After cooling, the precipitate obtained is filtered off with suction, chromatographed on silica gel with toluene/ethanol (10:1 v/v) and the fraction with the Rf 0.25 in toluene/ethanol (5:1 v/v) is isolated. 12-(3-Dimethylaminopropyl)-6,7,12, 13-tetrahydro-3,9-dimethoxy-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole is obtained in the form of yellow crystals which decompose from about 230° C. This compound can also be prepared from the same starting material by reaction with hexamethyldisilazane and methanol in dimethylformamide analogously to the process described in the literature (Tetrahedron Lett., 1990, 31, 5201).

reactant | 12-(3-Dimethylaminopropyl)-6,7,12,13-tetrahydro-3,9-dimethoxy-5,7-dioxoindolo-[2,3-a]furano[3.4-c]carbazole | 1.08 mmol, 510 mg | CN(CCCN1C2=CC=C(C=C2C=2C3=C(C4=C(C12)NC=1C=CC(=CC14)OC)C(OC3=O)=O)OC)C | C27H25N3O5
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 12-(3-Dimethylaminopropyl)-6,7,12, 13-tetrahydro-3,9-dimethoxy-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole | CN(CCCN1C2=CC=C(C=C2C=2C3=C(C4=C(C12)NC=1C=CC(=CC14)OC)C(NC3=O)=O)OC)C | C27H26N4O4
